US07538239B2
2-(2-(2-mesitylenesulfonyl)amino-5-methylphenyl)-3-methyl-2-cyclopenten-1-one
0.700 g (3.25 mmol) of 2-(2-amino-5-methylphenyl)-3-methyl-2-cyclopenten-1-one, 0.283 g (3.58 mmol) of pyridine, 0.782 g (3.58 mmol) of 2-mesitylenesulfonyl chloride, and 3 mL of M.C were loaded to a 20 mL vial, and then reacted for 12 hours. The work-up was the same as in Example 7 (1.29 g, 85%).

reactant | 2-(2-amino-5-methylphenyl)-3-methyl-2-cyclopenten-1-one | 3.25 mmol, 0.700 g | NC1=C(C=C(C=C1)C)C=1C(CCC1C)=O | C13H15NO
reactant | pyridine | 3.58 mmol, 0.283 g | N1=CC=CC=C1 | C5H5N
reactant | 2-mesitylenesulfonyl chloride | 3.58 mmol, 0.782 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
product | 2-(2-(2-mesitylenesulfonyl)amino-5-methylphenyl)-3-methyl-2-cyclopenten-1-one | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)NC1=C(C=C(C=C1)C)C=1C(CCC1C)=O)C | C22H25NO3S
